Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[O:9]=[C:10][H:11],0.807460723259
[C:4]=[C:5]([H:6])[H:7].[H:1][C:2]([H:3])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-2.9457223066000005
[H:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][C:4]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:5],3.12597005166
[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10],-4.40701886424
[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6].[O:7]=[C:8][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-0.382931656949
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[C:7]([H:8])=[C:9]([H:10])[O:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],4.20777496897
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][H:7]>>[O:1]=[C:2]([H:3])/[C:4]=[C:5](/[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.94922903917
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2][C:11]([H:12])([H:13])[H:14].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],4.3826913222
[C:2](#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.82273063951
[H:1][C:2]([H:3])([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:11][O:10]>>[H:1][C:2]1([H:3])[C:4][C:5]([C:6]([H:7])([H:8])[H:9])[O:10][O:11]1,0.297522095179
[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13],-6.46687507774
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])=[C:10]=[C:11]([H:12])[H:13],0.67134671337
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7].[H:8],4.47899339429
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]([H:12])[H:13],1.79611492625
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]=[C:2][H:3],4.6376170449
[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],6.193254995040001
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1]=[C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],4.3284609446900015
[C:1]=[C:2]([H:3])[H:4].[O:5][O:6][C:7]([H:8])=[C:9][H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])=[C:9][H:10],-0.0171545535795
[H:1].[O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16],-4.742388265930001
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15][H:16],4.97047270311
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([O:4][H:5])=[C:6][H:7],4.55730445276
[C:7]=[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-3.1941402317
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:12].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:13]([H:14])[H:15],4.76036739244
[H:13].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.63064757487
[H:1][C:2]#[C:3].[O:4]=[C:5]=[C:6]([H:7])[O:8][H:9]>>[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[O:8][H:9],-1.48754301454
[H:1][O:2][C:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],1.87272952699
[C:1]([O:3][C:4]([H:5])([H:6])[O:7][C:8]#[C:2])([H:9])[H:10]>>[C:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[O:7][C:8]1([H:9])[H:10],-2.46568930245
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9],4.16050455849
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11][H:12]>>[O:1]=[C:2]([H:3])[C@:4]1([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11][H:12],-0.2827383371999999
